US05387610
Potassium t-butoxide, 24.7 g (0.35M), was dissolved in 200 ml of refluxing t-butanol. A mixture of isobutyraldehyde, 18.2 ml (0.20M) and diethyl succinate 41.55 ml (0.25M) was added to the t-butanol solution over 30 min. The reaction mixture was stirred under reflux, for 2 h. The solvent was removed from the reaction mixture by evaporation under reduced pressure and acidified with 2N HCl. The product was extracted with ethyl ether, Et2O (3×200 ml). The ether solution was washed with water (3×200 ml); and the product was extracted with 10% Na2CO3 (4×200 ml). The solution was acidified with conc. HCl solution and the product was isolated by extraction with Et2O (4×150 ml). The ether layer was washed with water, dried over sodium sulfate, and evaporated. The remaining oil was dissolved in ethanol (300 ml) and hydrogenated in the presence of 10% palladium on charcoal (3.0 g). The resultant mixture was filtered through Celite and the solvent was evaporated to yield 38.04 g 2-carboethoxycarbonyl-4-methyl pentanoic acid as a mixture of isomers in the form of an oil. The isolated monoethyl ester was further purified on silica gel by flash chromatography using as eluent mixture ethyl acetate:hexane:acetic acid (1:10:0.05, v/v).

reactant | Potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | diethyl succinate | 0.25M, 41.55 ml | C(CCC(=O)OCC)(=O)OCC | C8H14O4
solvent | t-butanol | 200 ml | C(C)(C)(C)O | C4H10O
product | 2-carboethoxycarbonyl-4-methyl pentanoic acid | 38.04 g | C(=O)(OCC)C(=O)C(C(=O)O)CC(C)C | C10H16O5
